US07285564B2
Step C—Preparation of 4-(N-tert-Butoxycarbonyl-N-isopropylamino)piperidine
A solution of 1-benzyl-4-(N-tert-butoxycarbonyl-N-isopropylamino)piperidine (79.0 g, 0.24 mol) in ethanol (140 mL) was flushed with nitrogen for 15 minutes. This solution was then added to a 2 L Parr flask containing a mixture of 10% palladium on carbon (15.8 g; ca. 50% wt. water) in ethanol (100 mL), which solution had been flushed with nitrogen for 15 minutes. This reaction mixture was placed on a Parr Shaker under hydrogen at 50 psi for 24 hours. The reaction mixture was filtered through a pad of Celite and the Celite washed with ethanol. The filtrate was then concentrated in vacuo to afford 57.0 g of the title intermediate as a white solid (>99% yield).

reactant | 1-benzyl-4-(N-tert-butoxycarbonyl-N-isopropylamino)piperidine | 0.24 mol, 79.0 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C(C)C)C(=O)OC(C)(C)C | C20H32N2O2
solvent | ethanol | 140 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 15.8 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(N-tert-Butoxycarbonyl-N-isopropylamino)piperidine | 57.0 g, >99% yield | C(C)(C)(C)OC(=O)N(C(C)C)C1CCNCC1 | C13H26N2O2
